US06706709B2
A mixture of pyrrolidine (1.7 g, 24 mmol), bromoacetyl bromide (4.6 g, 24 mmol) and triethylamine (2.02 g, 20 mmol) in dichloromethane (40 mL) was stirred at room temperature for 4 hours. The precipitate was filtered off and the residue was concentrated to give 3.1 g of 2-bromo-1-pyrrolidin-1-yl-ethanone as a light brown solid.

reactant | pyrrolidine | 24 mmol, 1.7 g | N1CCCC1 | C4H9N
reactant | bromoacetyl bromide | 24 mmol, 4.6 g | BrCC(=O)Br | C2H2Br2O
reactant | triethylamine | 20 mmol, 2.02 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 2-bromo-1-pyrrolidin-1-yl-ethanone | 3.1 g | BrCC(=O)N1CCCC1 | C6H10BrNO
